US04119710
1-(4'-Amino-3'-chloro-5'-fluoro-phenyl)-2-tert.butylamino-ethanol,
m.p. of the hydrochloride: 206°-208° C. (decomp.), was prepared from 2-tert.butylamino-1-(3'-chloro-5'-fluoro-4'-propionylamino-phenyl)-ethanol analogous to Example 4.

reactant | hydrochloride | Cl | ClH
reactant | 2-tert.butylamino-1-(3'-chloro-5'-fluoro-4'-propionylamino-phenyl)-ethanol | C(C)(C)(C)NCC(O)C1=CC(=C(C(=C1)F)NC(CC)=O)Cl | C15H22ClFN2O2
product | 1-(4'-Amino-3'-chloro-5'-fluoro-phenyl)-2-tert.butylamino-ethanol | NC1=C(C=C(C=C1F)C(CNC(C)(C)C)O)Cl | C12H18ClFN2O
